US05298486
To a zinc iodide suspension (0.21 g, 0.671 mmol) in 42 g (0.3 mol) of 2-hexyl-2-propenal there were added dropwise, at 60° C. and under nitrogen, 18.5 g (0.25 mol) of 2-methoxypropene. Once the introduction was completed (23 min), the reaction was allowed to continue for 6 h at 60° C. and the mixture was then distilled on a Vigreux column to give 8.16 g of 5-hexyl-3,4-dihydro-2-methoxy-2-methyl-2H-pyran (B.p. 73°-74°/3 Pa; yield 15.4%).

reactant | 2-hexyl-2-propenal | 0.3 mol, 42 g | C(CCCCC)C(C=O)=C | C9H16O
reactant | 2-methoxypropene | 0.25 mol, 18.5 g | COC(=C)C | C4H8O
catalyst | zinc iodide | 0.671 mmol, 0.21 g | [I-].[Zn+2].[I-]
product | 5-hexyl-3,4-dihydro-2-methoxy-2-methyl-2H-pyran | 8.16 g, yield 15.4% | C(CCCCC)C=1CCC(OC1)(C)OC | C13H24O2
